Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
unresponsivness
 
Major Surgical or Invasive Procedure:
PEG tube placement ___

 
History of Present Illness:
___ (BID #: ___ is a ___ year-old male with 
CP, severe ID, epilepsy, HTN, and baseline dysphagia who 
presented to an OSH (___) earlier today after having an 
episode of unresponsiveness at home, initially concerning for 
seizure, but was found to have evidence on his ___ CT of acute 
stroke.

Unfortunately, ___ is nonverbal at baseline and he is not 
accompanied by his caregiver from his residential group home. I 
attempted to call her but was unable to reach her.

Per OSH records, he was in his usual state of health this 
morning until ~11:50 when he had a coughing fit followed by a 
period of unresponsiveness. His caregiver thought that he was 
possibly having a seizure, as this looked similar to his 
seizures in the
past, so he was brought to ___. There, he continued to 
be "out of it" so underwent a ___ CT which revealed loss of the 
gray-white junction in the R MCA territory in addition to a 
hyperdensity in the R MCA at the bifurcation (M1) -- suspicious 
for a thrombus. TeleStroke was called and Dr. ___ noted
a right gaze deviation as well as LUE flaccidity (both new, per 
his caregiver -- especially his LUE tone, as he is usually 
contracted with hypertonia throughout). He was loaded with tPA 
at 14:50 and then transferred to ___ ED for further cares. 

Of note, at baseline, ___ is mostly nonverbal other than 
unintelligible grunting/vocalizations and 1 or 2 words. He 
requires a 2-person assist to walk. 

ROS unable to be performed. On observation, he continues to have
frequent coughing. 
 
Past Medical History:
- Cerebral palsy
- CHF
- Epilepsy
- Intellectual disability/MR
- Blindness (legal)
- Hypertension
- Osteoporosis
- Anxiety
- Muscular dystrophy
- Dysphagia: at baseline diet is modified to purees +
honey-thickened liquids                           
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION EXAM:
==============
Vitals: ___ at 16:14)
T: 96.6
HR: 46
BP: 107/60
RR: 14
SpO2: 99% on RA

General: Awake, rare vocalizations (unintelligible); frequently
biting the back of his right hand or stroking his tongue with 
his
right hand
HEENT: NC/AT, Left eye damaged without normal pupil or ___ no
scleral icterus noted, MMM, no lesions noted in oropharynx
Pulmonary: breathing comfortably on RA; frequent coughing
Cardiac: warm and well-perfused throughout
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally. Preferentially keeps elbows
and wrists flexed, but does not have any fixed flexion
contractures. 
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, does not reliably tend to any verbal or
auditory stimulation. Looks towards tactile stimulation. Cries
___ during noxious stimulation, but no other intelligible
vocalizations appreciated. 

-Cranial Nerves:
II, III, IV, VI: Does not blink to light or to threat on either
side. Left pupil not present. Right pupil is 3 mm and minimally
reactive. Right eye is preferentially to the right but able to
come to the midline (but not past) with doll's ___ maneuver.  
V:
Grimaces to tickling of the face throughout.
VII: No facial droop, facial musculature symmetric.
VIII: Does not startle to loud clap. 
IX, X: patient uncooperative 
XI: unable to test
XII: Tongue protrudes in midline.

-Motor: Decreased bulk throughout. Holds elbows, wrists in 
flexed
position but is able to fully extend with passive ROM. No 
flexion
contractures throughout. Moves all limbs antigravity (briefly) 
in
response to noxious stimulation but very limited spontaneous
movement observed other than him bringing his right hand to his
mouth. 

-Sensory: withdraws from noxious stimulation

-DTRs:
  Bi  Pat Ach
L  ___
R  ___
Plantar response was flexor on the right, mute on the left.

-Coordination: unable to test

-Gait: deferred

DISCHARGE EXAM:
==============
VS: T 96.4 BP 116/73 HR 78 RR 16 SO2 98% on room air
Gen: NAD, comfortable, non-verbal, lying in chair
HEENT: Non-icteric sclera
CV: RRR
Pulm: Non-labored breathing
GI: Soft, NT, ND
Ext: No edema or cyanosis

Neuro:
MS: EO spontaneously. Non-verbal but occasionally groans. 
Follows
commands limited.  

-Cranial Nerves: Cataract left eye. Right eye is preferentially
to the right; pupil does not react to light, L NLFF.

Motor: Decreased bulk throughout. Decreased tone right side.
Increased tone left side. Holds elbows, wrists in flexed
position but is able to fully extend with passive ROM. Moves all
limbs antigravity (briefly) with noxious stimuli
some spontaneous movement, left less than right. 

Sensory: Withdraws with noxious stimulation, left less than
right

DTRs:
___

___: unable to test

Gait: deferred
 
Pertinent Results:
LABS:
====
___ 06:26PM BLOOD WBC-6.4 RBC-3.40* Hgb-11.1* Hct-34.4* 
MCV-101* MCH-32.6* MCHC-32.3 RDW-12.4 RDWSD-45.8 Plt ___
___ 06:05AM BLOOD WBC-5.8 RBC-3.45* Hgb-11.2* Hct-34.8* 
MCV-101* MCH-32.5* MCHC-32.2 RDW-12.3 RDWSD-45.9 Plt ___
___ 06:05AM BLOOD Neuts-69.7 ___ Monos-6.0 Eos-1.5 
Baso-0.2 Im ___ AbsNeut-4.05 AbsLymp-1.30 AbsMono-0.35 
AbsEos-0.09 AbsBaso-0.01
___ 06:26PM BLOOD ___ PTT-30.8 ___
___ 06:00PM BLOOD Creat-0.4*
___ 06:26PM BLOOD UreaN-15
___ 06:05AM BLOOD Glucose-73 UreaN-8 Creat-0.3* Na-144 
K-3.9 Cl-108 HCO3-21* AnGap-15
___ 06:05AM BLOOD ALT-10 AST-22 CK(CPK)-135 AlkPhos-108 
TotBili-0.3
___ 06:05AM BLOOD CK-MB-7 cTropnT-<0.01
___ 06:05AM BLOOD TotProt-5.9* Albumin-3.4* Globuln-2.5 
Cholest-157
___ 05:25AM BLOOD Calcium-7.9* Phos-1.3* Mg-2.1
___ 06:05AM BLOOD %HbA1c-4.6 eAG-85
___ 06:05AM BLOOD Triglyc-53 HDL-66 CHOL/HD-2.4 LDLcalc-80
___ 06:05AM BLOOD TSH-2.9
___ 06:05AM BLOOD CRP-10.7*
___ 06:00PM BLOOD Glucose-73 Na-144 K-3.6 Cl-109* 
calHCO3-20*
___ 04:45AM URINE Color-Straw Appear-Clear Sp ___
___ 04:45AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 01:30PM URINE RBC-2 WBC-2 Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 01:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 01:30PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 01:30PM URINE CastHy-9*
___ 01:30PM URINE AmorphX-RARE*
___ 01:30PM URINE Mucous-OCC*

___ 04:50AM BLOOD WBC-7.1 RBC-3.28* Hgb-10.9* Hct-33.1* 
MCV-101* MCH-33.2* MCHC-32.9 RDW-13.4 RDWSD-49.7* Plt ___
___ 04:50AM BLOOD ___ PTT-31.2 ___
___ 04:50AM BLOOD Glucose-89 UreaN-17 Creat-0.4* Na-138 
K-4.5 Cl-98 HCO3-30 AnGap-10
___ 04:50AM BLOOD Calcium-8.9 Phos-3.8 Mg-1.9

Labs on Discharge: 

MICRO:
=====
___ 3:18 am BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH

___ 5:25 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 4:35 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

___ 6:26 am MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated.

___ 10:30 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH

___ 1:10 pm BLOOD CULTURE      2 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.

___ 1:30 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING/STUDIES:
==============
CT ___ w/o Contrast ___:
IMPRESSION: 
1.  Loss of the gray-white differentiation of the right parietal 
and temporal
lobes compatible with the history of acute right middle cerebral 
artery
territorial infarction.
2.  No intracranial hemorrhage.

CTA ___ and Neck ___:
IMPRESSION:
1. Known, late acute versus early subacute infarct involving the 
right MCA
territory.  For description of additional intracranial 
parenchymal findings,
please see the separate CT examination performed on the same 
day.
2. Abrupt cutoff of a proximal right M2 branch with 
asymmetrically decreased
right-sided arborization of the M3/M4 branches.
3. Mild, slightly irregular luminal narrowing of the right P1 
and P 2
branches, which may be secondary to atherosclerotic disease.
4. Atherosclerosis resulting in approximately 40% stenosis of 
the proximal
left ICA by NASCET criteria.
5. Small bilateral pleural effusions, adjacent atelectasis, and 
probable mild
pulmonary edema asymmetrically affecting the left upper lobe.
6. 7 mm rounded hyperdense lesion in the right parotid gland 
most likely
represents an intra moderate lymph node, versus primary parotid 
lesion.

Echo ___:
Conclusions
The left atrial volume index is normal. Left ventricular wall 
thicknesses are normal. The left ventricular cavity is 
moderately dilated. There is moderate to severe global left 
ventricular hypokinesis (LVEF = ___ %). No intyraventricular 
thrombus identified. There is no ventricular septal defect. The 
right ventricular cavity is mildly dilated with borderline 
normal free wall function. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve leaflets are 
structurally normal. Mild (1+) mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. There is 
a very small circumferential pericardial effusion.
IMPRESSION: Biventricular cavity dilation with global 
hypokinesis most c/w a non-ischemic cardiomyopathy. Mild mitral 
regurgitation. 
CLINICAL IMPLICATIONS: 
The left ventricular ejection fraction is <40%, a threshold for 
which the patient may benefit from a beta blocker and an ACE 
inhibitor or ___.

MR ___ w/o Contrast ___:
IMPRESSION:
1. Moderately limited examination due to motion artifact.  
Acute/subacute
infarction involving the right parietal, right temporal, and 
right occipital
lobes.  No evidence of hemorrhage.
2. Effacement of the adjacent sulci and occipital horn of the 
right lateral
ventricle, but no midline shift.

Bilateral Lower Extremity Veins ___:
IMPRESSION: 
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.

CXR ___:
IMPRESSION: 
No significant interval change since the prior chest radiograph. 
 Bibasilar
opacities are concerning for aspiration/pneumonia superimposed 
on mild
pulmonary edema.

CXR ___:
IMPRESSION: 
Comparison to ___.  Stable moderate scoliosis.  
Stable mild
cardiomegaly with mild fluid overload but no overt pulmonary 
edema.  Stable
position of the feeding tube.  On today's examination, the left 
perihilar and
left apical parenchymal opacity have slightly increased in 
extent and
severity.  The opacity at the right lung basis is stable.  No 
pleural
effusions.

CT ___ w/o Contrast ___:
IMPRESSION:
1. Subtle new loss of gray-white differentiation in the right 
frontal lobe,
possibly representing another focus of infarct since ___ in the
MCA distribution.
2. Continued evolution large right MCA territory infarct.  No 
hemorrhage.

 
Brief Hospital Course:
___ with cerebral palsy, intellectual disability, and epilepsy 
admitted to the neurology stroke service at ___ 
___ for an episode of unresponsiveness 
following an acute infarct of the right MCA distribution. He was 
given tPA at ___ before transfer. His stroke was most 
likely secondary cardioembolism given his global cardiomyopathy 
and hyperdense clot at the bifurcation of the MCA (M1). His 
stroke risk factors include hyperlipidemia and cardiomyopathy; 
they were addressed with starting Atorvastatin 20mg and Aspirin 
81mg. His hospital course was complicated by a presumed 
aspiration pneumonia treated with a completed course of 
antibiotics including Vancomycin (stopped once MRSA screen 
negative), Cefepime, and Flagyl. Due to difficulties swallowing 
safely and high risk of aspiration, tube feeding was initiated 
on Doboff then transitioned to a PEG tube. His deficits include 
left sided weakness prior to discharge. On ___ Mr. 
___ developed fever in the setting of several loose bowel 
movements. Stool was sent for C.diff- PCR which returned 
positive. Mr. ___ was started on PO metronidazole. Mr. 
___ will continue recovery at a rehab center.  

Transitional Issues:
[] PO metronidazole for C. diff colitis started on ___
[ ] F/u with PCP
[ ] F/u with Cardiologist
[ ] F/u with Neurology
[ ] He should be evaluated periodically for improvements in 
swallowing function and advance to oral intake and diet as it is 
deemed safe.
[ ] PEG tube will be left in place for 3 months but thereafter 
if oral intake has advanced safely, the PEG tube can be removed. 

[ ] His EF was ___ due to a non-ischemic cardiomyopathy. He 
will likely need to start on a ACE inhibitor. It was not 
initiated during this admission due to borderline systolic BP's.

Stroke quality measures
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 80) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [x] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 ]  
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbamazepine (Extended-Release) 400 mg PO BID 
2. LevETIRAcetam 1000 mg PO BID 
3. Ensure (food supplemt, lactose-reduced) 1  can oral BID 
4. Testosterone Cypionate 50 mg IM MONTHLY 
5. melatonin 5 mg oral QHS 
6. Lisinopril 2.5 mg PO BREAKFAST 
7. Loratadine 10 mg PO DAILY 
8. ClonazePAM 0.25 mg PO BID 
9. RisperiDONE 1 mg PO BID 
10. RisperiDONE 0.5 mg PO QHS 
11. Benztropine Mesylate 0.5 mg PO BREAKFAST 
12. Fleet Enema (Mineral Oil) ___AILY:PRN constipation 
13. Polyethylene Glycol 17 g PO DAILY 
14. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
15. Lactulose 30 mL PO BID 
16. Multivitamins 1 TAB PO DAILY 
17. Senna 8.6 mg PO DAILY 
18. Senna 17.2 mg PO QHS 
19. Vitamin D ___ UNIT PO BREAKFAST 
20. Digoxin 0.25 mg PO BREAKFAST 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 20 mg PO QPM  
3.  MetroNIDAZOLE 500 mg PO TID  
4.  Phosphorus 250 mg PO BID  
5.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
6.  Benztropine Mesylate 0.5 mg PO BREAKFAST  
7.  Carbamazepine (Extended-Release) 400 mg PO BID  
8.  ClonazePAM 0.25 mg PO BID  
9.  Digoxin 0.25 mg PO BREAKFAST  
10.  Fleet Enema (Mineral Oil) ___AILY:PRN constipation 
 
11.  Lactulose 30 mL PO BID  
12.  LevETIRAcetam 1000 mg PO BID  
13.  Lisinopril 2.5 mg PO BREAKFAST  
14.  Loratadine 10 mg PO DAILY  
15.  melatonin 5 mg oral QHS  
16.  Multivitamins 1 TAB PO DAILY  
17.  Polyethylene Glycol 17 g PO DAILY  
18.  RisperiDONE 0.5 mg PO QHS  
19.  RisperiDONE 1 mg PO BID  
20.  Senna 17.2 mg PO QHS  
21.  Testosterone Cypionate 50 mg IM MONTHLY  
22.  Vitamin D ___ UNIT PO BREAKFAST  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Right MCA infarct

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Mr. ___,

     You were hospitalized due to symptoms of unresponsiveness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

     Stroke can have many different causes, so we assessed you 
for medical conditions that might raise your risk of having 
stroke. In order to prevent future strokes, we plan to modify 
those risk factors. Your risk factors are:  
   
     - High blood pressure
     - High cholesterol
     - Poor heart function

 We are changing your medications as follows:  
 
     - Added
           - Aspirin 81mg daily
           - Atorvastatin 20mg daily
           - Phosphorus 250mg twice a day
      -Stopped Ensure

 Please take your other medications as prescribed.  

 Please follow up with Neurology and your primary care physician 
as listed below.
  
     If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body
  
 Sincerely,  

 Your ___ Neurology Team  
 
Followup Instructions:
___